US05120738
Preparation of m-Oleoylaminoaniline
Oleic acid (2.82 g) and m-phenylenediamine (1.62 g) were reacted in the same manner as Reference Example 11 to obtain 2.60 g of the objective compound (yield: 70%).

reactant | Oleic acid | 2.82 g | C(CCCCCCC\C=C/CCCCCCCC)(=O)O | C18H34O2
reactant | m-phenylenediamine | 1.62 g | C1(=CC(=CC=C1)N)N | C6H8N2
product | m-Oleoylaminoaniline | 2.60 g, yield: 70% | C(CCCCCCC\C=C/CCCCCCCC)(=O)NC=1C=C(N)C=CC1 | C24H40N2O
